* seq-stat: de Queiroz varicaps; D1/D2 rectify; forward=diode
C1v 1 0 Q='(1.6e-11+2.64e-10*(0.5*(1+tanh(12.0*sin(6.283185e+03*time)))))*V(1)'
C2v 4 0 Q='(1.6e-11+2.64e-10*(0.5*(1+tanh(12.0*sin(6.283185e+03*time+3.14159265)))))*V(4)'
Cpar1 1 0 2e-11
Cpar2 2 0 2e-11
Cpar3 3 0 2e-11
Cpar4 4 0 2e-11
Ca 1 2 3.09e-10
Cb 3 4 3.09e-10
.model ND D(is=1e-9 n=0.005 rs=1e-3 cjo=0)
Dd1 2 0 ND
Dd2 3 0 ND
Dd3 1 3 ND
Dd4 4 2 ND
.ic v(1)=-1 v(2)=0 v(3)=0 v(4)=-1
.control
tran 2.00e-07 2.000e-02 uic
wrdata ss_direct.dat v(1) v(4)
.endc
.options reltol=1e-5 abstol=1e-12 vntol=1e-9 gmin=1e-14 maxstep=2.00e-07
.end
